US06018020
0.5 ml of N-ethylmorpholine and 0.37 ml of acetic anhydride were added in sequence to a solution of 1.95 g of N-[N-[N-[N-(O-tert-butyl-L-seryl)-D-valyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester in 70 ml of anhydrous dichloromethane. The mixture was stirred at room temperature for 1 hour and was then washed in sequence with 5% aqueous citric acid solution, saturated aqueous sodium bicarbonate solution and saturated brine. The organic phase was dried over anhydrous magnesium sulphate and evaporated. Chromatography of the residue on silica using 5% methanol in dichloromethane for the elution gave afforded 1.45 g of N-[N-[N-[N-(N-acetyl-O-tert-butyl-L-seryl)-D-valyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester; MS: m/e 780.6 [M+H]+.

reactant | N-ethylmorpholine | 0.5 ml | C(C)N1CCOCC1 | C6H13NO
reactant | acetic anhydride | 0.37 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-[N-[N-[N-(O-tert-butyl-L-seryl)-D-valyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester | 1.95 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC([C@H](NC([C@@H](N)COC(C)(C)C)=O)C(C)C)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C41H63N5O7
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | N-[N-[N-[N-(N-acetyl-O-tert-butyl-L-seryl)-D-valyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucine benzyl ester | 1.45 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](NC([C@@H](NC([C@H](NC([C@@H](NC(C)=O)COC(C)(C)C)=O)C(C)C)=O)CC1=C(C=CC=C1)C)=O)C(C)(C)C)=O)CC(C)C)=O | C43H65N5O8
